US06939928B1
(2) Synthesis of 2-(3-tert-butylcyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane
To a solution of 1.98 g (7.1 mmol) of 3,6-di-tert-butylfluorene in 40 ml of ether, 4.6 ml (7.5 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. To the resulting red solution, a solution of 1.56 g (9.6 mmol) of 3-tert-butyl-6,6-dimethylfulvene in 20 ml of ether was further dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. Then, 60 ml of water was added. The separated organic phase was dried over magnesium sulfate and then filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a solid. The solid was purified by column chromatography (silica gel, developing solvent: hexane) to obtain 1.35 g of a light yellow solid (yield: 43%). The analyzed values are given below.

reactant | 3,6-di-tert-butylfluorene | 7.1 mmol, 1.98 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 7.5 mmol, 4.6 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-tert-butyl-6,6-dimethylfulvene | 9.6 mmol, 1.56 g | C(C)(C)(C)C=1C=CC(C1)=C(C)C | C12H18
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | water | 60 ml | O | H2O
product | 2-(3-tert-butylcyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane | 1.35 g, yield: 43% | C(C)(C)(C)C1=CC(C=C1)C(C)(C)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C | C33H44
